US09403839B2
A round bottom flask was heated with a heat-gun under vacuum followed by being flushed with Ar. The process was repeated three times. To the flask, copper iodide (2.32 g, 12.2 mmol) was placed followed by the addition of THF (5 mL). The suspension was purged with argon for 2 minutes and then cooled to −78° C. Phenylmagnesium bromide (122 mL of 1 M, 122 mmol) in THF was added dropwise at −78° C. under argon. The mixture was stirred at −78° C. for 20 minutes. HMPA (44.0 g, 244 mmol) was added. The mixture was stirred at −78° C. for 30 min. TMSCl (26.5 g, 244 mmol) was added to a solution of 3-(4-isopropoxy-3-methoxy-benzoyl)-11-oxa-3-azaspiro[5.5]undec-9-en-8-one (7.30 g, 20.3 mmol) in THF (25 mL). The above solution was added to the reaction mixture dropwise. The mixture was slowly warmed to room temperature and was stirred at room temperature overnight. The reaction was quenched with saturated NH4Cl solution, repartitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate (2×). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated to dryness. The crude material was purified by column chromatography (40-60% ethyl acetate-Hex) to provide 3-(4-isopropoxy-3-methoxy-benzoyl)-10-phenyl-11-oxa-3-azaspiro[5.5]undecan-8-one (6 g). ESI-MS m/z calc. 437.22, found 438.0 (M+1)+; Retention time: 1.69 minutes (3 minute run).

reactant | Phenylmagnesium bromide | 122 mmol, 1 M, 122 mL | C1(=CC=CC=C1)[Mg]Br
reactant | HMPA | 244 mmol, 44.0 g | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | TMSCl | 244 mmol, 26.5 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | 3-(4-isopropoxy-3-methoxy-benzoyl)-11-oxa-3-azaspiro[5.5]undec-9-en-8-one | 20.3 mmol, 7.30 g | C(C)(C)OC1=C(C=C(C(=O)N2CCC3(CC2)CC(C=CO3)=O)C=C1)OC | C20H25NO5
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | copper iodide | 12.2 mmol, 2.32 g | [Cu](I)I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(4-isopropoxy-3-methoxy-benzoyl)-10-phenyl-11-oxa-3-azaspiro[5.5]undecan-8-one | 6 g | C(C)(C)OC1=C(C=C(C(=O)N2CCC3(CC2)CC(CC(O3)C3=CC=CC=C3)=O)C=C1)OC | C26H31NO5
